US07223879B2
Following the general procedure, 3,5-dimethylphenyl benzenesulfonate (131 mg, 0.5 mmol) was coupled with 5-aminoindole (100 mg, 0.75 mmol) with the reaction time of 4 h. Chromatography on silica gel column with 6:1 hexane:ethyl acetate gave 88 mg (74%) of 5-(3,5-dimethylphenylamino)indole as a pale brown solid; and 16 mg (14%) of 1-(3,5-dimethylphenyl)-5-aminoindole as a white solid.

reactant | 3,5-dimethylphenyl benzenesulfonate | 0.5 mmol, 131 mg | C1(=CC=CC=C1)S(=O)(=O)OC1=CC(=CC(=C1)C)C | C14H14O3S
reactant | 5-aminoindole | 0.75 mmol, 100 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3,5-dimethylphenylamino)indole | 88 mg, 74% | CC=1C=C(C=C(C1)C)NC=1C=C2C=CNC2=CC1 | C16H16N2
